US05338752
A solution of 1,4,5-triphenyl-3-(7-bromoheptyl)-imidazol-2-one (1.0 g) and triethylphosphite (1.66 g) in xylene (5 ml) was heated at reflux temperature for 40 hours. The solution was evaporated to an oil and chromatographed on silica gel (ethyl acetate/ethanol)The resulting oil was taken up in diethyl ether, filtered and evaporated to give diethyl 7-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)heptanephosphonate as a clear oil (0.84 g, 75%).

reactant | 1,4,5-triphenyl-3-(7-bromoheptyl)-imidazol-2-one | 1.0 g | C1(=CC=CC=C1)N1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCBr)=O | C28H29BrN2O
reactant | triethylphosphite | 1.66 g | C(C)OP(OCC)OCC | C6H15O3P
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | diethyl 7-(3,4,5-triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)heptanephosphonate | 0.84 g, 75% | C1(=CC=CC=C1)N1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCP(OCC)(=O)OCC)=O | C32H39N2O4P
